US03980784
A solution of 25.1 g. of 2,6-dinitro-4-trifluoromethylaniline in 100 ml. of pyridine was treated with trifluoroacetyl chloride, which has been prepared from 10 ml. of trifluoroacetic acid. Ethanol was added to the resulting mixture until it was homogeneous, and the reaction mixture was then evaporated under vacuum. The residue after evaporation was washed with water, dried, dissolved in acetone, and filtered. Chloroform was added to the filtrate until the product precipitated. The precipitate was separated by filtration and dried to obtain the purified intermediate, 2',6'-dinitro-4'-trifluoromethyl-2,2,2-trifluoroacetanilide.

reactant | 2,6-dinitro-4-trifluoromethylaniline | [N+](=O)([O-])C1=C(N)C(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C7H4F3N3O4
reactant | pyridine | N1=CC=CC=C1 | C5H5N
reactant | trifluoroacetyl chloride | FC(C(=O)Cl)(F)F | C2ClF3O
reactant | trifluoroacetic acid | FC(C(=O)O)(F)F | C2HF3O2
solvent | Ethanol | C(C)O | C2H6O
product | 2',6'-dinitro-4'-trifluoromethyl-2,2,2-trifluoroacetanilide | [N+](=O)([O-])C1=C(NC(C(F)(F)F)=O)C(=CC(=C1)C(F)(F)F)[N+](=O)[O-] | C9H3F6N3O5
